Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / metformin
 
Attending: ___.
 
Chief Complaint:
chest pain, neck tightness, and lower extremity edema 
 
Major Surgical or Invasive Procedure:
Cardiac perfusion study 

 
History of Present Illness:
___ woman with DM2 (A1C 6.3% in ___, hyperlipidemia,
hypertension presenting with intermittent dyspnea on exertion 
and
neck tightness. 

For the past 2 weeks, during exertion she has been endorsing 
neck
tightness, chest tightness, and associated dyspnea that would
resolve with rest. Also occasionally happening at rest but would
self-resolve. Today around noon neck tightness came on at rest
and did not completely gone away. She has also been having
worsening lower extremity edema bilaterally for 3 days and
worsening two-pillow orthopnea (usually 1 pillow). Denies
palpitations.

Was having some chest and neck tightness in ED so got SLN x 1.
Did not improve chest tightness but did give her a severe
headache. Chest tightness resolved on its own.

She does not use her albuterol frequently, and has not tried it
for these episodes of DOE. She says her usual weight is 198 lbs.

Denies dysuria, frequency, change in urine appearance.

In the ED, initial VS were:
-98.1 72 130/65 18 100% RA 

Exam notable for: Nonpitting edema up to ankles bilaterally,
decreased breath sounds in the bases

Labs showed:
-Normal BMP
-Troponin <0.01 x2
-Normal LFTs
-proBNP 85
-Hgb 10.5 with MCV 77
-U/A with 5 epi's, few bacteria, small leuks, no protein
-PTT 77.9 and 95.8 on a heparin gtt

Imaging showed:
-EKG with sinus rhythm, 73 bpm, normal axis, normal RWP, +LVH 
per
aVL, no acute ST-TW changes; compared with prior on ___,
overall similar

-CXR showing no acute cardiopulmonary process

Received:
-SL nitro x1
-Aspirin 324mg PO x1
-Heparin gtt
-Acetaminophen 1000mg PO x1
-NS x500cc

Transfer VS were: 
98.0
71
130/50
16
100% RA
 
Past Medical History:
PAST MEDICAL AND SURGICAL HISTORY:  
-ABDOMINAL PAIN   
-DIABETES TYPE II   
-DIVERTICULOSIS   
-GASTROESOPHAGEAL REFLUX   
-GASTROPARESIS   
-HYPERLIPIDEMIA   
-HYPERTENSION   
-KNEE PAIN   
-ANKLE PAIN   
-CATARACT   
-INCIDENTAL RENAL MASS 
 
Social History:
___
Family History:
Non-contributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: 98.7    132 / ___
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, JVP elevated to angle of mandible with HOB
at 45 degrees
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB, decreased BS at ___ bases
ABDOMEN: soft, NTND
EXTREMITIES: WWP, 2+ non-pitting edema in ___ ___: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  

DISCHARGE PHYSICAL EXAM:
Objective: 
VS: 97.8 95 / 59 - 121 / 75 62-74, 18 96 Ra 
I/O: Not recorded
Weight: 94.08kg<--95.4 (210 lb), per pt 200 lb at home, per
charts up to 2-teens. 
GENERAL: NAD  
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva,
MMM
NECK: supple, no LAD, JVP approx. 8cm
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: CTAB
ABDOMEN: soft, NTND
EXTREMITIES: WWP, trace edema bilaterally 
PULSES: 2+ DP pulses bilaterally  
NEURO: A&Ox3, moving all 4 extremities with purpose  
SKIN: warm and well perfused, no excoriations or lesions, no
rashes  
 
Pertinent Results:
ADMISSION LABS:
___ 09:15PM BLOOD WBC-7.1 RBC-4.69 Hgb-10.7* Hct-36.1 
MCV-77* MCH-22.8* MCHC-29.6* RDW-14.6 RDWSD-39.4 Plt ___
___ 09:15PM BLOOD Neuts-52.6 ___ Monos-9.5 Eos-5.2 
Baso-0.7 Im ___ AbsNeut-3.75 AbsLymp-2.25 AbsMono-0.68 
AbsEos-0.37 AbsBaso-0.05
___ 09:15PM BLOOD Plt ___
___ 09:15PM BLOOD Glucose-157* UreaN-20 Creat-0.9 Na-142 
K-3.9 Cl-100 HCO3-26 AnGap-16
___ 09:15PM BLOOD ALT-11 AST-18 AlkPhos-63 TotBili-0.3
___ 09:15PM BLOOD Albumin-4.2 Calcium-9.4 Phos-3.2 Mg-1.9

PERTINENT LABS:
-D-Dimer:847
-proBNP 85 (obese)
-Troponin <0.01 x3; CK-MB: 2
-Normal LFTs
-Hgb 10.5 with MCV 77
-U/A contaminated 
-PTT 77.9 and 95.8 on a heparin gtt

PERTINENT IMAGING:
EKG with sinus rhythm, 73 bpm, normal axis, normal RWP, +LVH per
aVL, no acute ST-TW changes; compared with prior on ___,
overall similar

CXR showing no acute cardiopulmonary process

___: Ultrasound, L leg:
No evidence of deep venous thrombosis in the left lower 
extremity
veins. 

___: PMIBI
Left ventricular cavity size is normal. 
Resting and stress perfusion images reveal uniform tracer uptake 
throughout the left ventricular myocardium. 
  
Gated images reveal normal wall motion. 
The calculated left ventricular ejection fraction is 76%. 
  
IMPRESSION:  Normal myocardial perfusion study with EF of 76%. 

DISCHARGE LABS:
___ 07:16AM BLOOD WBC-5.9 RBC-4.63 Hgb-11.1* Hct-35.1 
MCV-76* MCH-24.0* MCHC-31.6* RDW-14.9 RDWSD-40.0 Plt ___
___ 07:16AM BLOOD Plt ___
___ 07:16AM BLOOD Glucose-142* UreaN-20 Creat-0.7 Na-144 
K-4.1 Cl-102 HCO3-23 AnGap-19*
___ 07:16AM BLOOD Calcium-9.2 Phos-3.9 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ female with DM2 (A1C 6.3% in 
___, hyperlipidemia, hypertension presenting with stable 
chronic orthopnea, worsening dyspnea on exertion over past ___ 
months, neck tightness and dull left-sided chest pain 
intermittently at rest and new lower extremity edema over the 
last few days. 

Patient had negative troponinsx3, serial ECGs without ischemic 
changes, and a normal chest x-ray without evidence of an acute 
cardiopulmonary process. 

Given patient's left calf pain and bilateral extremity 
non-pitting edema, patient received an ultrasound to rule out 
DVT. Her lower extremity edema was most likely venous 
insufficiency, but she should be monitored for heart failure 
given her risk factors. 

Given her cardiac risk factors, we also performed a PMIBI to 
assess her cardiac function, which showed a normal ejection 
fraction and no evidence of disease. 

We increased her statin dose and transitioned the patient from 
atenolol to metoprolol succinate. 

TRANSITIONAL ISSUES:
[] Patient needs close-follow up to assess patient for signs of 
heart failure. 
[] Patient needs further evaluation to look for etiology of 
left-sided chest pain and lower extremity edema, as does not 
seem to be cardiac cause
[] Consider starting ___ in future. 

Discharge weight: 94.08kg (207.4lbs)
Hb: 11.1
Cr: 0.7
D-dimer: 847
CK-MB: 2; trop <0.01 

NEW MEDICATIONS 
Metoprolol Succinate XL 50 mg PO DAILY 
Chlorthalidone 25 mg PO/NG DAILY 

MEDICATIONS CHANGED 
Simvastatin 20 mg PO QPM (increased from 10mg)

MEDICATIONS DISCONTINUED
atenolol-chlorthalidone 50-25 mg oral DAILY 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Victoza 3-Pak (liraglutide) 1.2 mg subcutaneous DAILY 
2. Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea 
3. Aspirin 81 mg PO DAILY 
4. atenolol-chlorthalidone 50-25 mg oral DAILY 
5. Simvastatin 10 mg PO QPM 

 
Discharge Medications:
1.  Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
2.  Metoprolol Succinate XL 50 mg PO DAILY heart rate  
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0 
3.  Simvastatin 20 mg PO QPM 
RX *simvastatin 20 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0 
4.  Albuterol Inhaler ___ PUFF IH Q6H:PRN dyspnea  
5.  Aspirin 81 mg PO DAILY  
6.  Victoza 3-Pak (liraglutide) 1.2 mg subcutaneous DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Atypical chest pain 

 
Discharge Condition:
Mental status: clear and coherent
Ambulatory status: ambulates independently 

 
Discharge Instructions:
Ms. ___, 

Why were you in the hospital?
=============================
You came to the hospital for decreased exercise tolerance over 
the past few months, along with new episodes of neck tightness 
and lower extremity edema over last few days. 

What was done for you in the hospital?
======================================
We did blood tests that were negative for heart attack. We 
performed an ultrasound on your leg to make sure there was no 
clot. We also performed multiple EKG's, took a chest x-ray, and 
ultimately did a stress perfusion study to help us look at your 
heart. Fortunately, your heart is functioning normally and is 
not the cause of your discomfort. 

What should you do when you leave the hospital?
===============================================
Please follow-up with your primary care provider to further 
evaluate causes of your discomfort. Please take your medications 
as prescribed. Lastly, weigh yourself every morning after you 
have urinated, and call your doctor if your weight increases 
more than 3 lbs. 

Sincerely, 
Your ___ Care Team 
 
Followup Instructions:
___